US08258316B2
N-(3-amino-6-phenylpyridin-2-yl)-4-(2-(2-oxopyrrolidin-1-yl)propanamido)benzamide
Similar procedure from Example 2 was followed to obtain benzyl 2-(4-(2-(2-oxopyrrolidin-1-yl)propanamido)benzamido)-6-phenylpyridin-3-ylcarbamate using 4-(2-(2-oxopyrrolidin-1-yl)propanamido)benzoic acid and benzyl 2-amino-6-phenylpyridin-3-ylcarbamate. The Cbz group was then deprotected under standard hydrogenation conditions to give the title compound. C25H25N5O3 444.0 (M+1). 1H NMR (400 MHz, DMSO-d6): δ 10.29 (s, 1H); 10.25 (s, 1H); 8.01 (d, J=8.8 Hz, 2H); 7.92 (d, J=8.8 Hz, 2H); 7.71 (d, J=8.4 Hz, 2H); 7.65 (d, J=8.4 Hz, 1H); 7.38-7.35 (m, 2H); 7.27-7.22 (m, 2H); 5.11 (s, 2H); 4.70 (q, J=7.2 Hz, 1H); 3.55 (m, 1H); 3.44 (m, 1H); 2.26-2.23 (m, 2H); 1.97-1.91 (m, 2H); 1.36 (d, J=7.2 Hz, 3H).

reactant | 4-(2-(2-oxopyrrolidin-1-yl)propanamido)benzoic acid | O=C1N(CCC1)C(C(=O)NC1=CC=C(C(=O)O)C=C1)C | C14H16N2O4
reactant | benzyl 2-amino-6-phenylpyridin-3-ylcarbamate | NC1=NC(=CC=C1NC(OCC1=CC=CC=C1)=O)C1=CC=CC=C1 | C19H17N3O2
product | N-(3-amino-6-phenylpyridin-2-yl)-4-(2-(2-oxopyrrolidin-1-yl)propanamido)benzamide | NC=1C(=NC(=CC1)C1=CC=CC=C1)NC(C1=CC=C(C=C1)NC(C(C)N1C(CCC1)=O)=O)=O | C25H25N5O3
